US06255285B1
To a solution of 1.96 g of Z-N-Me-Val-N-Me-Tyr(3-tBu)-OMe in 1,4-dioxane (40 ml), 2 N NaOH (5 ml) was added at room temperature and the mixture was stirred for 2 hours. The reaction mixture was adjusted to pH 3 with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine and the organic layer was dried with sodium sulfate. The solvent was distilled off under reduced pressure to give Z-N-Me-Val-N-Me-Tyr(3-tBu)-OH. To a solution of this Z-N-Me-Val-N-Me-Tyr(3-tBu)-OH in THF (20 ml), ethyl chloroformate (0.40 ml) and NMM (0.46 ml) were added under cooling with ice and the mixture was stirred for 15 minutes. Subsequently, ammonia gas was bubbled into the reaction mixture for 5 minutes. The solvent was distilled off under reduced pressure and the precipitating salt was filtered off and washed with ethyl acetate. The solvent was distilled off under reduced pressure and the resulting residue was subjected to silica gel column chromatography (eluting solvent; n-hexane:ethyl acetate=2:3) to give Z-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 in the amount of 1.17 g (61%).

reactant | Z-N-Me-Val-N-Me-Tyr(3-tBu)-OH | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)O)C)C | C28H38N2O6
reactant | NMM | 0.46 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl chloroformate | 0.40 ml | ClC(=O)OCC | C3H5ClO2
product | Z-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C28H39N3O5
